US06525220B2
N-(5-Methoxy-2-nitrophenyl)carbamic acid t-butyl ester
To a solution of N-(5-methoxy-2-nitrophenyl)-N-t-butoxycarbonylcarbamic acid t-butyl ester (10.6 g) in toluene (5 ml) and methanol (30 ml) was added 24% sodium methoxide in methanol (3.1 ml) and the mixture was stirred at 25° C. for 3 hours. At the end of this time the reaction mixture was cooled to 0° C. and the precipitated crystals were filtered to give the title compound (5.8 g, yield 75%).

reactant | N-(5-methoxy-2-nitrophenyl)-N-t-butoxycarbonylcarbamic acid t-butyl ester | 10.6 g | C(C)(C)(C)OC(N(C(=O)OC(C)(C)C)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C17H24N2O7
reactant | sodium methoxide | C[O-].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 3.1 ml | CO | CH4O
product | N-(5-Methoxy-2-nitrophenyl)carbamic acid t-butyl ester | 5.8 g, yield 75% | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
